US03974157
Preparation of 1-(2-Dimethylamino-1-methylethyl)-2-(p-methoxyphenyl)-cyclohexanol hydrochloride.
The procedure of Example II is followed except that 2-phenylcyclohexanone is replaced by 2-(p-Methoxyphenyl)cyclohexanone and piperidine is replaced by dimethylene. By this method is obtained 196 g crude Ethyl-2-(1-hydroxy-2-[p-methoxyphenyl]cyclohexyl) propionate from 128.7 g 2-(p-Methoxyphenyl)cyclohexanone (which is prepared by known methods) and 121.8 g Ethyl-2-bromopropionate; 50 g crude 2-(1-Hydroxy-2-[p-methoxyphenyl]cyclohexyl) propionic acid from 196 g Ethyl-2-(1-hydroxy-2-[p-methoxyphenyl]cyclohexyl)propionate; 54.6 g crude 2-(1-Hydroxy-2-[p-methoxyphenyl]cyclohexyl)propanol from 50 g 2-(1-Hydroxy-2-[p-methoxyphenyl]cyclohexyl)propionic acid. The crude 2-(1-Hydroxy-2-[p-methoxyphenyl]cyclohexyl)propanol is converted to the tosylate and treated with 125 ml dimethylamine (according to the procedure of Example II) to give 44 g crude base which is converted to the hydrochloride and recrystallized from isopropanol to give 33.5 g product, m. 245-6.

reactant | 2-(1-Hydroxy-2-[p-methoxyphenyl]cyclohexyl) propionic acid | 50 g | OC1(C(CCCC1)C1=CC=C(C=C1)OC)C(C(=O)O)C | C16H22O4
reactant | Ethyl-2-(1-hydroxy-2-[p-methoxyphenyl]cyclohexyl)propionate | 196 g | C(C)OC(C(C)C1(C(CCCC1)C1=CC=C(C=C1)OC)O)=O | C18H26O4
reactant | 2-(1-Hydroxy-2-[p-methoxyphenyl]cyclohexyl)propanol | 54.6 g | OC1(C(CCCC1)C1=CC=C(C=C1)OC)C(CO)C | C16H24O3
reactant | 2-(1-Hydroxy-2-[p-methoxyphenyl]cyclohexyl)propionic acid | 50 g | OC1(C(CCCC1)C1=CC=C(C=C1)OC)C(C(=O)O)C | C16H22O4
reactant | tosylate | S(=O)(=O)([O-])C1=CC=C(C)C=C1
reactant | dimethylamine | 125 ml | CNC | C2H7N
reactant | hydrochloride | Cl | ClH
product | 1-(2-Dimethylamino-1-methylethyl)-2-(p-methoxyphenyl)-cyclohexanol hydrochloride | 33.5 g | Cl.CN(CC(C)C1(C(CCCC1)C1=CC=C(C=C1)OC)O)C | InChI=1S/C18H29NO2.ClH/c1-14(13-19(2)3)18(20)12-6-5-7-17(18)15-8-10-16(21-4)11-9-15;/h8-11,14,17,20H,5-7,12-13H2,1-4H3;1H
